US08476248B2
Fifty g of β-CD (44 mM) and 1000 mL of distilled water were put in a 5000 mL beaker. The mixture was heated to a temperature ranging 60-70° C. in a microwave oven, for 90 seconds. Soon after, 100 to 200 mL of ethanol 96% were added, and the mixture was heated again twice to a temperature ranging 60-70° C. in a microwave oven, for 90 seconds. To the resulting solution, 10 g of trans-resveratrol (44 mM) diluted in 50-100 mL of ethanol 96% were added. The mixture was heated once or twice to a temperature ranging 60-70° C. in a microwave oven, for 90 seconds. The resulting solution was slowly cooled at 15° C. and left at this temperature up to 24 hours. The crystals formed from trans-resveratrol/β-cyclodextrin (β-CD/Res) complex were collected by filtration under reduced pressure, and dried in a vacuum oven at 60° C., resulting in 14.5-28 g of the invention complex with purity from 91 to 98% and a yield around 56%. Besides, filtrate (resulting solution) was freeze dried, providing 45.5-31.5 g of solid material having non-reacted components and other complexes (FIGS. 1 and 6).

reactant | β-CD | 44 mM | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | water | 1000 mL | O | H2O
reactant | trans-resveratrol | 44 mM, 10 g | C1(=CC(O)=CC(O)=C1)\C=C\C1=CC=C(O)C=C1 | C14H12O3
solvent | ethanol | 50-100 mL | C(C)O | C2H6O
solvent | ethanol | 100 to 200 mL | C(C)O | C2H6O
product | trans-resveratrol β-cyclodextrin | C1(=CC(O)=CC(O)=C1)\C=C\C1=CC=C(O)C=C1.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | InChI=1S/C42H70O35.C14H12O3/c43-1-8-29-15(50)22(57)36(64-8)72-30-9(2-44)66-38(24(59)17(30)52)74-32-11(4-46)68-40(26(61)19(32)54)76-34-13(6-48)70-42(28(63)21(34)56)77-35-14(7-49)69-41(27(62)20(35)55)75-33-12(5-47)67-39(25(60)18(33)53)73-31-10(3-45)65-37(71-29)23(58)16(31)51;15-12-5-3-10(4-6-12)1-2-11-7-13(16)9-14(17)8-11/h8-63H,1-7H2;1-9,15-17H/b;2-1+/t8-,9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-;/m1./s1
